US05143923
N-[3-(1(2-Methoxyphenyl)-4-piperazinyl)propyl]-1,2-benzisothiazole-3-carboxamide dihydrochloride
A mixture of N-(3-chloropropyl)-1,2-benzisothiazole-3-carboxamide (4.2 g), 1-(2-methoxyphenyl)piperazine (3.3 g), potassium carbonate (4.55 g), and sodium iodide (100 mg) in dry N-methylpyrrolidinone (150 ml) was heated to 180° C., with stirring, under nitrogen. After 24 hr, the reaction mixture was allowed to cool to room temperature and partitioned between ether/water. The organic phase was dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated in vacuo. The residue was chromatographed on silica using ether as the eluent. The appropriate fractions were collected and evaporated. The residue was taken up in ether and hydrogen chloride in ether was added. Recrystallization of the precipitate from methanol/dichloromethane/ether provided 2.12 g (26.6%) of product, mp 191°-194° C.

reactant | N-(3-chloropropyl)-1,2-benzisothiazole-3-carboxamide | 4.2 g | ClCCCNC(=O)C1=NSC2=C1C=CC=C2 | C11H11ClN2OS
reactant | 1-(2-methoxyphenyl)piperazine | 3.3 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | potassium carbonate | 4.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 100 mg | [I-].[Na+]
solvent | N-methylpyrrolidinone | 150 ml | CN1C(CCC1)=O | C5H9NO
product | N-[3-(1(2-Methoxyphenyl)-4-piperazinyl)propyl]-1,2-benzisothiazole-3-carboxamide dihydrochloride | 2.12 g, 26.6% | Cl.Cl.COC1=C(C=CC=C1)N1CCN(CC1)CCCNC(=O)C1=NSC2=C1C=CC=C2 | InChI=1S/C22H26N4O2S.2ClH/c1-28-19-9-4-3-8-18(19)26-15-13-25(14-16-26)12-6-11-23-22(27)21-17-7-2-5-10-20(17)29-24-21;;/h2-5,7-10H,6,11-16H2,1H3,(H,23,27);2*1H
